* source 1
C_2uF         N00141 N00550  1n  
I_I2         N00141 0 DC 0Adc AC 0Aac
+SIN 0 10 318.319 0 0 0
R_R1         0 N00141  2k  
R_R2         0 N00550  4k  
L_L1         N00141 0  50mH  
